US08044041B2
A mixture of 1,4-dichloro-phthalazine-6-carboxylic acid (4-trifluoromethyl-pyridin-2-yl) amide (0.487 g, 1.258 mmol), NaOMe (0.333 g, 6.164 mmol) and DMF (5 mL) was stirred at room temperature for 16 hours. The reaction was poured onto water, neutralized with 2N HCl and extracted into EtOAc (×3). The combined organic layer was washed with water, brine and dried (Na2SO4). Chromatography (Hex/EtOAc) afforded 1,4-dimethoxy-phthalazine-6-carboxylic acid (4-trifluoromethyl-pyridin-2-yl)-amide (0.24 g), m/z (M+1) 379.11.

reactant | 1,4-dichloro-phthalazine-6-carboxylic acid (4-trifluoromethyl-pyridin-2-yl) amide | 1.258 mmol, 0.487 g | FC(C1=CC(=NC=C1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)Cl)Cl)(F)F | C15H7Cl2F3N4O
reactant | NaOMe | 6.164 mmol, 0.333 g | C[O-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1,4-dimethoxy-phthalazine-6-carboxylic acid (4-trifluoromethyl-pyridin-2-yl)-amide | 0.24 g | FC(C1=CC(=NC=C1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)OC)OC)(F)F | C17H13F3N4O3
